US07943788B2
1-(Benzo[b]thiophen-2-ylmethyl)-5-bromo-2-chlorobenzene
Thianaphthene and 5-bromo-2-chlorobenzaldehyde obtained in Reference Example 16-(1) were treated in a manner similar to Reference Example 7 to give the target compound.

reactant | Thianaphthene | C=1C=CC2=C(C1)C=CS2 | C8H6S
reactant | 5-bromo-2-chlorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)Cl | C7H4BrClO
product | 1-(Benzo[b]thiophen-2-ylmethyl)-5-bromo-2-chlorobenzene | S1C2=C(C=C1CC1=C(C=CC(=C1)Br)Cl)C=CC=C2 | C15H10BrClS
